US04134987
5-chloro-1,3-dimethyl-N-phenyl-4-pyrazolecarboxamide (2.7 g) was dissolved in ethanol (100 ml) and anhydrous sodium acetate (2 g) added. The mixture was hydrogenated at room temperature and 2 atmospheres pressure using palladium on carbon catalyst. On completion of the reaction, the catalyst was removed by filtration through celite and the filtrate evaporated in vacuo. Water (50 ml) was added and the product extracted with chloroform (3 × 25 ml). The combined extracts were washed with water, dried and evaporated. The product was crystallised from ethanol and 1,3-dimethyl-N-phenyl-4-pyrazolecarboxamide (2 g, 96%) was obtained as colourless needles, m.p. 91-92° C.

reactant | 5-chloro-1,3-dimethyl-N-phenyl-4-pyrazolecarboxamide | 2.7 g | ClC1=C(C(=NN1C)C)C(=O)NC1=CC=CC=C1 | C12H12ClN3O
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 1,3-dimethyl-N-phenyl-4-pyrazolecarboxamide | 2 g, 96% | CN1N=C(C(=C1)C(=O)NC1=CC=CC=C1)C | C12H13N3O
